*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA6R3ARA331MJ80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA6R3ARA331MJ80G_20deg-C 1 2

C1 4 2 2.96e-04
C2 5 2 6.02e-05
C3 6 2 7.66e-06
R1 3 4 9.58e-03
R2 4 5 3.69e-02
R3 5 6 2.55e+00
L1 1 3 4.20e-09

.ENDS
